US09359362B2
Ethyl (rac)-7-(4-cyanophenyl)-5-methyl-2-[(trifluoroacetyl)amino]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate
Under argon, ethyl 2-amino-7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate (50 mg, 0.15 mmol) was dissolved in pyridine (1 ml), and trifluoroacetic anhydride (35 μl, 0.25 mmol, 1.6 eq.) was added. After 1 h of stirring, the solvent was distilled off under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (60.6 mg, 93% of theory).

reactant | ethyl 2-amino-7-(4-cyanophenyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | 0.15 mmol, 50 mg | NC1=NN2C(NC(=C(C2C2=CC=C(C=C2)C#N)C(=O)OCC)C)=N1 | C16H16N6O2
reactant | trifluoroacetic anhydride | 0.25 mmol, 35 μl, 1.6 eq. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl (rac)-7-(4-cyanophenyl)-5-methyl-2-[(trifluoroacetyl)amino]-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)NC(C(F)(F)F)=O)C)C(=O)OCC | C18H15F3N6O3
